US08278290B2
(i) 2-t-Butyldimethylsilanyl-3-(t-butyldimethylsilanyloxymethylene)-6-methoxy-benzofuran
A suspension of 2-iodo-5-methoxyphenol (1.1 g, 4.41 mmol), 1-(tert-butyl-dimethylsilanyl)-3-(tert-butyl-dimethyl-silanyloxy)-propyne (1.5 g, 5.28 mmol), lithium chloride (189 mg, 4.45 mmol) and sodium carbonate (2.34 g, 22.08 mmol) in dry dimethylformamide (5 mL) at 100° C. was deoxygenated 4 times by evacuation and backfilling with nitrogen. Palladium acetate (135 mg, 0.60 mmol) was added and the reaction vessel was degassed twice with nitrogen. The reaction mixture was then stirred at this temperature for 4 hours (tlc) and the solvent was removed by distillation under vacuum. The residue was dissolved in ethyl acetate (75 mL), stirred well, filtered and treated with triethylamine (5 mL). The solution was concentrated onto silica gel (10 g) and purified by flash chromatography (silica gel, eluent=hexane/diethyl ether/triethylamine; 95:5:1%) to give the title compound as a yellow oil; (1.09 g, 87%); 1H NMR (300 MHz, CDCl3) δ 7.52(d, 1H, J=8.57 Hz), 6.97(d, 1H, J=2.15 Hz), 6.83(dd, 1H, J=8.54, 2.18 Hz), 4.81(s, 2H, CH2), 3.83(s, 3H, OMe), 0.93(s, 9H), 0.91(s, 9H), 0.34(s, 6 H), 0.11(s, 6H).

reactant | 2-iodo-5-methoxyphenol | 4.41 mmol, 1.1 g | IC1=C(C=C(C=C1)OC)O | C7H7IO2
reactant | 1-(tert-butyl-dimethylsilanyl)-3-(tert-butyl-dimethyl-silanyloxy)-propyne | 5.28 mmol, 1.5 g | [Si](C)(C)(C(C)(C)C)C#CCO[Si](C)(C)C(C)(C)C | C15H32OSi2
reactant | lithium chloride | 4.45 mmol, 189 mg | [Cl-].[Li+]
reactant | sodium carbonate | 22.08 mmol, 2.34 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
catalyst | Palladium acetate | 0.60 mmol, 135 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-t-Butyldimethylsilanyl-3-(t-butyldimethylsilanyloxymethylene)-6-methoxy-benzofuran | [Si](C)(C)(C(C)(C)C)C1OC2=C(C1=CO[Si](C)(C)C(C)(C)C)C=CC(=C2)OC | C22H38O3Si2
